US06265349B1
Preparation of 3-(6-chlorobenzoxazolin-2-on-5-yl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 3-20)
0.6 g (1.9 mmol) of 3-(5-amino-2-chloro-4-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone and 0.35 g (2.2 mmol) of CDI were dissolved in 5 ml of THF, followed by stirring for 1 hour under heating and refluxing. After completion of the reaction, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The organic layer was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography to obtain 0.41 g (yield: 63%) of the desired product. Melting point: 263-265° C. 1H-NMR (400 MHz, CDCl3) δ value: 3.78(3H,s), 6.84(1H,s), 6.85(1H,d), 7.28(1H,s), 7.46(1H,d)ppm.

reactant | 3-(5-amino-2-chloro-4-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 1.9 mmol, 0.6 g | NC=1C(=CC(=C(C1)C=1C(N(C(=CC1)C(F)(F)F)C)=O)Cl)O | C13H10ClF3N2O2
reactant | CDI | 2.2 mmol, 0.35 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-(6-chlorobenzoxazolin-2-on-5-yl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.41 g, yield: 63% | ClC1=CC2=C(NC(O2)=O)C=C1C=1C(N(C(=CC1)C(F)(F)F)C)=O | C14H8ClF3N2O3
